US07425634B2
(92a) 4-chloro-N,N-diisopropylpyridine-2-carboxamide
Thionyl chloride (60 ml, 823 mmol) was diluted with toluene (100 ml) and heated to 45° C. To the mixture, N,N-dimethylformamide (16 ml, 207 mmol) was added and the resultant mixture was stirred in the same conditions for one hour. To the mixture, picolinic acid (25 g, 203 mmol) was added and the resultant mixture was stirred at 80° C. for one hour and 20 minutes. After the reaction mixture was concentrated and diisopropylamine (185 ml, 807 mmol) and acetonitrile (500 ml) were added to the residue, the mixture was stirred at room temperature for 21 hours and 30 minutes. After the reaction mixture was concentrated, the residue was separated with ethyl acetate and water. The organic layer was washed with a saturated saline solution, dried over anhydrous magnesium sulfate, filtrated and concentrated. The residue was purified by silica gel column chromatography (elution solvent: heptane/ethyl acetate) to obtain the title compound (31.1 g, yield: 63.6%) as a pale brown solid.

reactant | Thionyl chloride | 823 mmol, 60 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 207 mmol, 16 ml | CN(C=O)C | C3H7NO
reactant | picolinic acid | 203 mmol, 25 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | diisopropylamine | 807 mmol, 185 ml | C(C)(C)NC(C)C | C6H15N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 4-chloro-N,N-diisopropylpyridine-2-carboxamide | 31.1 g, yield: 63.6% | ClC1=CC(=NC=C1)C(=O)N(C(C)C)C(C)C | C12H17ClN2O
